US06387919B1
4-[N′(5-Methyl-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide (E isomer)
The title compound was prepared from 5-methyl-1H-indole-2,3-dione (Gassman, et al., Journal of Organic Chemistry 1977, 42, 1344-8) and 4-sulfonamidophenylhydrazine hydrochloride according to Procedure G in 86% yield: 1H NMR (DMSO-d6): δ 2.3 (s, 3H), 6.76 (d, J=7.9 Hz, 1H), 7.11 (d, J=7.9 Hz, 1H), 7.20 (s, 2H), 7.57 (d, J=8.8 Hz, 2H), 7.77 (d, J=8.8 Hz, 2H), 8.02 (s, 1H), 10.51 (s, 1H), 10.62 (s, 1H); APCI−MS m/z 329 (M−1)−. Anal. Calcd for C15H14N4O3S: C, 54.54, H, 4.27; N, 16.96; S, 9.71. Found C, 54.54, H, 4.32; N, 16.87; S. 9.62.

reactant | 5-methyl-1H-indole-2,3-dione | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 4-sulfonamidophenylhydrazine hydrochloride | C1=CC(=CC=C1NN)S(=O)(=O)N.Cl
product | 4-[N′(5-Methyl-2-oxo-1,2-dihydro-indol-3-ylidene)-hydrazino]-benzenesulfonamide | 86% yield | CC=1C=C2C(C(NC2=CC1)=O)=NNC1=CC=C(C=C1)S(=O)(=O)N | C15H14N4O3S
